US04888332
Preparation of 5-hydroxy-3-mercapto-7-methoxycarbonyl-s-triazolo[4,3-a]pyrimidine
A mixture of 15.1 g of 3-amino-5-mercapto-s-triazole, 18.9 g of dimethyl acetylenedicarboxylate and 100 ml of ethanol was refluxed for 90 minutes. The objective compound (29 g) was obtained by collecting the crystals separated out upon cooling the reaction mixture.

reactant | 3-amino-5-mercapto-s-triazole | 15.1 g | NC1=NNC(=N1)S | C2H4N4S
reactant | dimethyl acetylenedicarboxylate | 18.9 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-hydroxy-3-mercapto-7-methoxycarbonyl-s-triazolo[4,3-a]pyrimidine | 29 g | OC1=CC(=NC=2N1C(=NN2)S)C(=O)OC | C7H6N4O3S
